US05104888
5-[3-(7-t-Butyl-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)-4-methylbenzyl]thiazolidine-2,4-dione
the procedure described in Example 3 was repeated, but using 2,4 g of ethyl 3-[3-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy) -4-methylphenyl]-2-chloropropionate (prepared as described in Preparation 42), 0.7 g of thiourea, 5 ml of sulfolane, 10 ml of 2N aqueous hydrochloric acid and 15 ml of ethylene glycol monomethyl ether, to give the title compound.

reactant | ethyl 3-[3-(6-acetoxy-7-t-butyl-2-methyl-4-oxochroman-2-ylmethoxy) -4-methylphenyl]-2-chloropropionate | 2,4 g | C(C)(=O)OC=1C=C2C(CC(OC2=CC1C(C)(C)C)(C)COC=1C=C(C=CC1C)CC(C(=O)OCC)Cl)=O | C29H35ClO7
reactant | thiourea | 0.7 g | NC(=S)N | CH4N2S
reactant | sulfolane | 5 ml | S1(=O)(=O)CCCC1 | C4H8O2S
reactant | hydrochloric acid | 2N, 10 ml | Cl | ClH
solvent | ethylene glycol monomethyl ether | 15 ml | COCCO | C3H8O2
product | 5-[3-(7-t-Butyl-6-hydroxy-2-methyl-4-oxochroman-2-ylmethoxy)-4-methylbenzyl]thiazolidine-2,4-dione | C(C)(C)(C)C1=C(C=C2C(CC(OC2=C1)(C)COC=1C=C(CC2C(NC(S2)=O)=O)C=CC1C)=O)O | C26H29NO6S
